* C:\Users\alex_\Documents\IKP\HYDRA\Test_PCB_MPPC-array_FARICH\HV_MPPC_Ballance\SPICE\LTC6090_prototype.asc
XU1 0 N001 DAC N004 N003 N002 HV_In N003 LTC6090
V1 HV_In 0 65
R1 HV_Out N002 49
C1 HV_Out 0 2.2µ
R2 0 HV_Out 11k
V5 DAC 0 PWL(0 0 0.01 0.5 0.02 1 0.03 1.5 0.04 2 0.05 2.5 0.06 3 0.07 3.5 0.08 4)
R3 N002 N001 82k
R4 N001 0 3.9k
V2 N004 0 -5
.tran 0.1
* Negative Charge Pump
* Feedback
* LoadSim
.lib LTC5.lib
.backanno
.end
