* BGA2803 - Simplified SPICE Model with external VDD
* Common-emitter broadband amplifier (approximate)

.SUBCKT BGA2803 IN GND OUT VDD

* Biasing resistor to enable base current from VDD
RB1 VDD BIAS 500

* Amplifier stage
Q1 IN BIAS GND QMOD

* Collector and emitter resistors
RC BIAS OUT 1k
RE GND GND 50

* Transistor model
.MODEL QMOD NPN (BF=100 TF=0.08n CJE=1p CJC=0.5p VAF=50)

.ENDS BGA2803
