* C:\Users\alex_\Documents\IKP\HYDRA\Test_PCB_MPPC-array_FARICH\UV_LED_Driver\Spice\UV_LED_Driver.asc
R1 P001 N001 150
V§PSU_LED P001 0 5.8
Q1 N003 N005 0 0 2N2222
R2 N005 N004 4.7k
C1 N005 0 1µ
V§GPIO_PWM N004 0 PULSE(0 3.3 0.15 0 0 2u 5u 1000000)
M1 N001 N002 0 0 2N7002
V§GPIO_Pulse N002 0 PULSE(0 3.3 0.2 0 0 100n 200n 10000)
D1 N001 N003 UV_C_LED
.model D D
.lib C:\Users\alex_\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\alex_\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\alex_\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.8
.include C:\Users\alex_\Documents\IKP\HYDRA\Test_PCB_MPPC-array_FARICH\UV_LED_Driver\Spice\UV_C_LED.lib
.backanno
.end
